US06756372B2
(a) 1-Cyclopropylmethyl-3-hydroxy-pyrrolidine
3-Hydroxy-pyrrolidine (5.65 g, 65 mmol, 1.0 equiv) was dissolved in 100 mL of 1% AcOH in THF and cooled to 0° C. Na(OAc)3BH (24 g, 114 mmol, 1.75 equiv) and cyclopropylcarboxaldehyde (5.0 g, 71 mmol, 1.1 equiv) were added and the resulting mixture was stirred at 0° C. for 1 h and room temperature overnight (16 h). The reaction was diluted with 200 mL of 2 N NaOH, and the product was extracted 3×200 mL of CH2Cl2. The organic extracts were combined, dried over Na2SO4, decanted and concentrated to yield the desired product as a free-flowing oil (7.26 g, 79%) which was used without further purification; MS, m/z 142=M+1.

reactant | 3-Hydroxy-pyrrolidine | 65 mmol, 5.65 g, 1.0 equiv | OC1CNCC1 | C4H9NO
reactant | Na(OAc)3BH | 114 mmol, 24 g, 1.75 equiv | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | cyclopropylcarboxaldehyde | 71 mmol, 5.0 g, 1.1 equiv | C1CC1C(C#N)O | C5H7NO
solvent | AcOH | 100 mL | CC(=O)O | C2H4O2
solvent | THF | C1CCOC1 | C4H8O
solvent | NaOH | 2 N, 200 mL | [OH-].[Na+]
product | 1-Cyclopropylmethyl-3-hydroxy-pyrrolidine | 7.26 g, 79% | C1(CC1)CN1CC(CC1)O | C8H15NO
